US04548926
N-[3-(3-Nitro-2-pyridyldithio)propionyl]-L-phenylalanyl-L-histidyl-L-leucinol (Compound No. 11)
To 0.16 g. (0.3 mmole) of N-benzyloxycarbonyl-L-phenylalanyl-L-histidyl-L-leucinol were added 3 ml. of a 25% w/v glacial acetic acid solution of hydrogen bromide. The mixture was stirred at room temperature for 30 minutes, and then anhydrous diethyl ether was added thereto. The precipitate thus formed was separated by filtration and dissolved in 5 ml. of dimethylformamide. The solution was cooled with ice, and then there were added 30 mg. of N-methylmorpholine for neutralization. To the neutralized solution were added an active ester prepared from 86 mg. (0.33 mmole) of 3-(3-nitro-2-pyridyldithio)propionic acid, 39 mg. (0.33 mmole) of 1-hydroxybenztriazole and 74 mg. (0.36 mmole) of DCC. The mixture was stirred for 1 hour whilst cooling with ice and then overnight at room temperature, after which it was treated in a conventional manner to give a yellow powder, which was purified by silica gel column chromatography (eluent: chloroform/methanol=8:1 by volume), to afford 47 mg. of the desired compound as a yellow powdery solid, melting at 109°-112° C.; [α]22 -33.8° (C=0.5, methanol).

reactant | N-benzyloxycarbonyl-L-phenylalanyl-L-histidyl-L-leucinol | 0.3 mmole | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)CO | C29H37N5O5
reactant | hydrogen bromide | Br | BrH
reactant | 3-(3-nitro-2-pyridyldithio)propionic acid | 0.33 mmole | [N+](=O)([O-])C=1C(=NC=CC1)SSCCC(=O)O | C8H8N2O4S2
reactant | 1-hydroxybenztriazole | 0.33 mmole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 0.36 mmole | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[3-(3-Nitro-2-pyridyldithio)propionyl]-L-phenylalanyl-L-histidyl-L-leucinol | [N+](=O)([O-])C=1C(=NC=CC1)SSCCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)CO | C29H37N7O6S2
